US08003651B2
DIPEA (35.5 mg, 0.275 mmol) was added to a suspension of (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (20 mg, 0.069 mmol), 1-(tert-butoxycarbonyl)-4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylic acid (29.7 mg, 0.082 mmol), and O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (31.3 mg, 0.082 mmol) in CH2Cl2 (5 mL) at room temperature. The resulting mixture was stirred for 2 hours, diluted with EtOAc, washed with saturated aqueous NaHCO3 and saturated aqueous NH4Cl. The organic layer was dried (MgSO4) and concentrated. The residue was purified by a silica cartridge (5.0 g), eluted by a mixture of EtOAc and hexanes (60:40) to give the tert-butyl 3-(3,4-dichlorophenyl)-4-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate as a mixture of diastereomers (34 mg, 88%). LCMS (APCI+) [M-Boc+H]+ 560.0; Rt: 3.59 min.

reactant | DIPEA | 0.275 mmol, 35.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.069 mmol, 20 mg | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2
reactant | 1-(tert-butoxycarbonyl)-4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylic acid | 0.082 mmol, 29.7 mg | C(C)(C)(C)OC(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C16H19Cl2NO4
reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.082 mmol, 31.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(3,4-dichlorophenyl)-4-(1-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-4-carbonyl)pyrrolidine-1-carboxylate | ClC=1C=C(C=CC1Cl)C1CN(CC1C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C(=O)OC(C)(C)C | C28H35Cl2N5O3
